US04218460
2-ethyl-5-[1-methyl-2-(1-methyl-5-nitroimidazol-2-yl)-vinyl]-1,3,4-thiadiazole
4.65 g of 1-methyl-5-nitroimidazole-2-carboxaldehyde, which has been dissolved in 80 ml of acetic acid and 35 ml of acetic anhydride, is dripped into 17.1 g of 2,5-diethyl-1,3,4thiadiazole, which has been dissolved in a mixture of 60 ml of acetic acid, 25 ml of acetic anhydride and 0.5 g of zinc chloride, over a period of 5 hours at reflux temperature. After being heated for a further 24 hours at reflux temperature the reaction mixture is concentrated by removing the solvent and water is added. The precipitated reaction product is then subjected to sublimation and recrystallized from propanol. 2.9 g of product, corresponding to 35% of the theory, is obtained. The compound melts at 125° C.

reactant | 1-methyl-5-nitroimidazole-2-carboxaldehyde | 4.65 g | CN1C(=NC=C1[N+](=O)[O-])C=O | C5H5N3O3
reactant | 2,5-diethyl-1,3,4thiadiazole | 17.1 g | C(C)C=1SC(=NN1)CC | C6H10N2S
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 0.5 g | [Cl-].[Zn+2].[Cl-]
product | 2-ethyl-5-[1-methyl-2-(1-methyl-5-nitroimidazol-2-yl)-vinyl]-1,3,4-thiadiazole | 2.9 g | C(C)C=1SC(=NN1)C(=CC=1N(C(=CN1)[N+](=O)[O-])C)C | C11H13N5O2S
